US04517195
[2-(2-Fluorobenzoyl)-1H-pyrrol-1-yl]-methyl-carbamic acid, ethyl ester
Sodium carbonate (22.4 g, 0.21 mol), methyl iodide (30 g, 0.21 mol), and [2-(2-fluorobenzoyl)-1H-pyrrol-1-yl]-carbamic acid, ethyl ester (25.4 g, 0.09 mol) were combined in 100 ml of dry DMF with stirring at ambient temperature. After 72 hours, the mixture was poured into 800 ml of H2O and extracted with three 250 ml portions of DCM. The combined extracts were washed with H2O and brine, dried (MgSO4), filtered and evaporated to an oil. This oil was purified by HPLC (silica, DCM) to give 26 g (97%) of crystals, m.p. 64°-66°.

reactant | Sodium carbonate | 0.21 mol, 22.4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl iodide | 0.21 mol, 30 g | CI | CH3I
reactant | [2-(2-fluorobenzoyl)-1H-pyrrol-1-yl]-carbamic acid, ethyl ester | 0.09 mol, 25.4 g | FC1=C(C(=O)C=2N(C=CC2)NC(OCC)=O)C=CC=C1 | C14H13FN2O3
reactant | H2O | 800 ml | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | [2-(2-Fluorobenzoyl)-1H-pyrrol-1-yl]-methyl-carbamic acid, ethyl ester | 26 g, 97% | FC1=C(C(=O)C=2N(C=CC2)N(C(OCC)=O)C)C=CC=C1 | C15H15FN2O3
